US04843061
Preparation of ethyl 3-isopropyl-methyl-5-bicyclo[2.2.1]heptene-2-carboxylate (3a, R=ethyl)
A mixture of 75 g (0.53 mol) of ethyl trans-4-methyl-2-pentenoate and 48 g (0.30 mol) of methylcyclopentadiene dimer dissolved in 130 ml of benzene was heated at 175° C. for 6 hours in an autoclave. After cooling, the reaction mixture was evaporated down and the evaporation residue distilled. 69 g were obtained of the desired compound as a mixture of the isomers 3a indicated in Reaction Scheme III. b.p.: 60°-65° C./13 Pa. NMR (of the mixture): 0.8-1.0 (6H); 1.2 (3H); 1.76 (3H, broad s); 4.0 (2H); 5.3-5.8 (1H).

reactant | ethyl trans-4-methyl-2-pentenoate | 0.53 mol, 75 g | CC(/C=C/C(=O)OCC)C | C8H14O2
reactant | methylcyclopentadiene dimer | 0.30 mol, 48 g | CC1=CC2C3CC(C2C1)C=C3C | C12H16
solvent | benzene | 130 ml | C1=CC=CC=C1 | C6H6
product | ethyl 3-isopropyl-methyl-5-bicyclo[2.2.1]heptene-2-carboxylate | C(C)(C)C1C(C2(C=CC1C2)C)C(=O)OCC | C14H22O2
